US09085555B2
C. (2R,3S,4R)-4-Acetylamino-3-fluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester
A solution of (2R,3S,4R)-4-acetylamino-3-fluoro-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester (315 mg, 0.82 mmol) in methanol (2 mL) was hydrogenated with palladium on carbon 10% (88 mg, 0.82 mmol) overnight. The reaction mixture was filtered over glass fiber and was concentrated. The residue was used as was for the next step.

reactant | (2R,3S,4R)-4-acetylamino-3-fluoro-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester | 0.82 mmol, 315 mg | C(C)(C)(C)OC(=O)N1[C@@H]([C@H]([C@@H](C1)NC(C)=O)F)C(=O)OCC1=CC=CC=C1 | C19H25FN2O5
solvent | methanol | 2 mL | CO | CH4O
catalyst | palladium on carbon | 0.82 mmol, 88 mg | [Pd] | Pd
product | (2R,3S,4R)-4-Acetylamino-3-fluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@H]([C@@H](C1)NC(C)=O)F)C(=O)O | C12H19FN2O5
